### PR TITLE
refactor(library/*): remove redundant fields

### PR DESCRIPTION
**Pull request by anfelor**
This removes some redundant fields in the definitions of `ordered_comm_group`, `ordered_semiring`, `ordered_ring` and `decidable_linear_ordered_comm_group` as discussed on [zulip](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/ordered_comm_group.20unnecessary.20field).

### CODE REVIEW

File: library/init/algebra/ordered_group.lean [hunk 1]
```diff
@@ -185,12 +185,23 @@ end ordered_cancel_comm_monoid
...
 variable [ordered_comm_group α]
 
+lemma ordered_comm_group.add_lt_add_left (a b : α) (h : a < b) (c : α) : c + a < c + b :=
+begin
+  rw lt_iff_le_not_le at h,
+  rw lt_iff_le_not_le,
+  split,
+  { apply ordered_comm_group.add_le_add_left _ _ h.1 },
+  { intro w,
+    let w : -c + (c + b) ≤ -c + (c + a) := ordered_comm_group.add_le_add_left _ _ w _,
```
Comment (anfelor) [inline library/init/algebra/ordered_group.lean]: The original mathlib proof used `replace` instead of `let`, but I think they are equivalent here.

File: library/init/algebra/ordered_group.lean [hunk 2]
```diff
@@ -610,11 +621,14 @@ end ordered_comm_group
...
 instance decidable_linear_ordered_comm_group.to_ordered_comm_group (α : Type u)
   [s : decidable_linear_ordered_comm_group α] : ordered_comm_group α :=
 { add := s.add, ..s }
 
 class decidable_linear_ordered_cancel_comm_monoid (α : Type u)
       extends ordered_cancel_comm_monoid α, decidable_linear_order α
+
+lemma decidable_linear_ordered_comm_group.add_lt_add_left {α} [decidable_linear_ordered_comm_group α]
+  (a b : α) (h : a < b) (c : α) : c + a < c + b :=
+  ordered_comm_group.add_lt_add_left a b h c
```
Comment (bryangingechen) [inline library/init/algebra/ordered_group.lean]:
```suggestion
  ordered_comm_group.add_lt_add_left a b h c
  
```

File: library/init/algebra/ordered_group.lean (hunk 1 above)
Comment (gebner) [reply library/init/algebra/ordered_group.lean]: I won't complain as long as the proof works.

File: library/init/algebra/ordered_ring.lean [hunk 3]
```diff
@@ -16,11 +16,23 @@ universe u
 
 class ordered_semiring (α : Type u)
   extends semiring α, ordered_cancel_comm_monoid α :=
-(mul_le_mul_of_nonneg_left:  ∀ a b c : α, a ≤ b → 0 ≤ c → c * a ≤ c * b)
```
[the remark this answers is not in the document]
Comment (anfelor) [reply library/init/algebra/ordered_ring.lean]: For `ordered_ring` there is one: `mul_nonneg => mul_pos` holds only in integral domains while the reverse holds in arbitrary rings (that probably applies to semirings too in some way). For `ordered_comm_group` the reason is that I re-used the proof from mathlib, but I could change that for consistency..

File: library/init/algebra/ordered_group.lean (hunk 1 above)
Comment (anfelor) [reply library/init/algebra/ordered_group.lean]: I thought `replace` came from mathlib. If it's in the lean core, I can use it too

File: library/init/algebra/ordered_ring.lean (hunk 3 above)
[the remark this answers is not in the document]
Comment (gebner) [reply library/init/algebra/ordered_ring.lean]: It's fine as long as there is a reason for it.  I was just surprised by the apparent inconsistency.

File: library/init/algebra/ordered_group.lean (hunk 1 above)
Comment (bryangingechen) [reply library/init/algebra/ordered_group.lean]: Oh, you're right. `replace` is indeed a mathlib tactic. You could use `have` there instead of `let`. There will be two variables named `w`  but Lean is smart enough here to figure out which one goes where. If it bothers you you can rename one of them to `w'`.

**Comment by urkud** [comment]
Should we create a branch with all proposed library changes, and a big pending PR from this branch to `master`? This way it will be easier to track, e.g., if this PR conflicts with #161, and at release we can merge the large PR without squashing.

**Comment by gebner** [comment]
I think we have enough changes now to warrant a new release.  I'll merge this PR.

I'm not sure if it was the right choice to wait with merging the PRs to keep Lean master compatible with mathlib master.  In the end we don't gain much from it.

File: library/init/algebra/ordered_group.lean (hunk 1 above)
Comment (bryangingechen) [inline library/init/algebra/ordered_group.lean:200]:
```suggestion
    have w : -c + (c + b) ≤ -c + (c + a) := ordered_comm_group.add_le_add_left _ _ w _,
```
